US06444828B1
10.4 g of methylhydrazine were initially charged in 50 ml of ethanol and, with stirring and external cooling, admixed with a solution of 42.9 g of ethyl 2,4-diketoheptanecarboxylate in 50 ml of ethanol, during which the internal temperature was kept at 5 to 10° C. (time for the dropwise addition: 10 minutes). The solution was stirred at 5 to 10° C. for another 30 minutes, the solvent and the water which had been formed were distilled off and the residue was fractionated under reduced pressure. The desired ethyl 1-methyl-3-n-propyl-pyrazole-5-carboxylate passed over at 125 to 128° C. (13 mm). The yield was 78.3% of theory. By further distillation (166 to 168° C./13 mm), the undesired isomer (=ethyl 1-methyl-5-n-propyl-pyrazole-3-carboxylate) was obtained in a yield of 7.9% of theory. Thus, the isomer ratio was approximately 10:1 in favor of the desired isomer.

reactant | methylhydrazine | 10.4 g | CNN | CH6N2
reactant | ethyl 2,4-diketoheptanecarboxylate | 42.9 g | O=C(CC(=O)OCC)CC(CCC)=O | C10H16O4
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 1-methyl-5-n-propyl-pyrazole-3-carboxylate | yield of 7.9% | CN1N=C(C=C1CCC)C(=O)OCC | C10H16N2O2
